US07737149B2
A solution of methyl 2-chloropyrimidine-5-carboxylate (209 mg, 1.21 mmol) in dichloromethane (4.00 ml) was added to a stirred solution of 1-propan-2-yl-1,4-diazepane (172 mg, 1.21 mmol) and N-ethyl-N-propan-2-ylpropan-2-amine (0.523 ml, 3.02 mmol) in dichloromethane (4.00 ml) at 25° C. The resulting solution was stirred at ambient temperature for 18 h. The reaction mixture was evaporated to dryness and redissolved in MeOH (20 mL) and the crude product was purified by ion exchange chromatography, using an SCX column. The desired product was eluted from the column using 7M NH3/MeOH and evaporated to dryness to afford methyl 2-(4-propan-2-yl-1,4-diazepan-1-yl)pyrimidine-5-carboxylate (267 mg, 79%) as a cream oil which crystallised on standing. This was used directly with no further purification.

reactant | methyl 2-chloropyrimidine-5-carboxylate | 1.21 mmol, 209 mg | ClC1=NC=C(C=N1)C(=O)OC | C6H5ClN2O2
reactant | 1-propan-2-yl-1,4-diazepane | 1.21 mmol, 172 mg | CC(C)N1CCNCCC1 | C8H18N2
reactant | N-ethyl-N-propan-2-ylpropan-2-amine | 3.02 mmol, 0.523 ml | C(C)N(C(C)C)C(C)C | C8H19N
solvent | dichloromethane | 4.00 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 4.00 ml | ClCCl | CH2Cl2
product | methyl 2-(4-propan-2-yl-1,4-diazepan-1-yl)pyrimidine-5-carboxylate | 267 mg, 79% | CC(C)N1CCN(CCC1)C1=NC=C(C=N1)C(=O)OC | C14H22N4O2
